US05521216
Under cooling on ice, 70 ml of hydrochloric acid/methanol was added to 70 ml of 9.47 g of 5,7-bis(methoxymethoxy)-2-methylthiochromone (30.35 mmol) in THF, and the mixture was stirred overnight at room temperature. After addition of water, the reaction solution was extracted twice with ethyl acetate, and the organic layer was washed with saturated NaCl water and dried over sodium sulfate anhydride. The solvent was distilled off under reduced pressure, to give 6.88 g of 5,7-dihydroxy-2-methylthiochromone. This product was subjected without purification to the following reaction.

reactant | hydrochloric acid methanol | 70 ml | Cl.CO
reactant | 5,7-bis(methoxymethoxy)-2-methylthiochromone | 30.35 mmol, 70 ml, 9.47 g | COCOC1=C2C(C=C(OC2=CC(=C1)OCOC)C)=S | C14H16O5S
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 5,7-dihydroxy-2-methylthiochromone | 6.88 g | OC1=C2C(C=C(OC2=CC(=C1)O)C)=S | C10H8O3S
